US08748624B2
STEP B: ethyl 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate
3-bromo-5-chloro-N-(4′-chloro-[1,1′-biphenyl]-4-yl)benzamide (51 mg, 0.12 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (66 mg, 0.16 mmol), Pd(dppf)Cl2 (9 mg, 0.01 mmol), and 2M aqueous K2CO3 (0.12 mL, 0.24 mmol) were dissolved in 1,4-dioxane (2 mL) and water (2 mL) and the resulting mixture was heated to 70° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 3-bromo-5-chloro-N-(4′-chloro-[1,1′-biphenyl]-4-yl)benzamide | 0.12 mmol, 51 mg | BrC=1C=C(C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)Cl)C=C(C1)Cl | C19H12BrCl2NO
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 0.16 mmol, 66 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 0.24 mmol, 2M, 0.12 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(3-chloro-5-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | ClC=1C=C(C=C(C1)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C30H25Cl2N3O4
